US04169146
To a solution of lithium aluninum hydride (155 mg) in anhydrous ether was added a solution of 5-(4-ethoxycarbonylmorpholin-2-yl)methylidene-10,11-dihydro-5H-dibenzo[a,d]-cycloheptene (600 mg) in anhydrous ether under ice-cooling, and the resulting mixture was stirred under ice-cooling for 1 hour and under reflux for 2.5 hours. The reaction mixture was cooled, admixed with 10% aqueous sodium hydroxide solution and extracted with ether. The ether extract was dried over anhydrous sodium sulfate and evaporated to afford 5-(4-methylmorpholin-2-yl)methylidene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene as oily material. M.P., 243°-244° C. (decomp.) (oxalate).

reactant | lithium | [Li] | Li
reactant | hydride | 155 mg | [H-]
reactant | 5-(4-ethoxycarbonylmorpholin-2-yl)methylidene-10,11-dihydro-5H-dibenzo[a,d]-cycloheptene | 600 mg | C(C)OC(=O)N1CC(OCC1)C=C1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C23H25NO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ether | CCOCC | C4H10O
product | 5-(4-methylmorpholin-2-yl)methylidene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | CN1CC(OCC1)C=C1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C21H23NO
